US04196287
1.0 gm. of cobaltocene (0.005 mole) and 71.5 gm. of β-dimethylaminopropionitrile (0.7 mole) was saturated with 12 atm. of acetylene at 20° C. (as in Example 13) and heated to 170° C. The admixture was stirred for another hour at a constant acetylene pressure of 12 atm. after a pressure drop to 11 atm. Upon distillative processing of the reaction product, 4.4 gm. of benzol, 5 gm. of β-dimethylaminoproprionitrile and 80.1 gm. of 2-(β-dimethylaminoethyl)-pyridine were obtained. This corresponded to a conversion of 93.0 percent of β-dimethylaminopropionitrile and a yield of 72.7 percent of 99.4 percent 2-(β-dimethylaminoethyl)-pyridine.

reactant | β-dimethylaminopropionitrile | 0.7 mole | CN(CCC#N)C | C5H10N2
reactant | acetylene | C#C | C2H2
reactant | benzol | C1=CC=CC=C1 | C6H6
catalyst | cobaltocene | 0.005 mole | [CH-]1C=CC=C1.[CH-]1C=CC=C1.[Co+2]
product | 2-(β-dimethylaminoethyl)-pyridine | CN(CCC1=NC=CC=C1)C | C9H14N2
